US08877975B2
(1-(4-fluorophenyl)cyclohexyl)methaneamine (91)
The title compound was synthesized from 1-(4-fluorophenyl)-cyclohexane-carboxylic acid and ammonia using General Procedure G, followed by General Procedure E in 99% yield as a clear oil. LCMS Rt=6.76 min, m/z=208 (M+1). 1H NMR (CDCl3, δ): 7.24 (ddd, J=3.2, 5.4, 12.2 Hz, 2H), 7.00 (t, J=8.8 Hz, 2H), 2.67 (s, 2H), 2.1 (m, 2H), 1.6-1.2 (m, 8H), 0.79(bs, 2H). 13C NMR (CDCl3, δ, mult): 162.1(0), 159.7(0), 140.3(0), 128.7(1), 128.6(1), 115.1(1), 114.9(1), 54.8(2), 43.2(0), 33.8(2), 26.6(2), 22.1(2).

reactant | 1-(4-fluorophenyl)-cyclohexane-carboxylic acid | FC1=CC=C(C=C1)C1(CCCCC1)C(=O)O | C13H15FO2
reactant | ammonia | N | H3N
product | (1-(4-fluorophenyl)cyclohexyl)methaneamine | 99% yield | FC1=CC=C(C=C1)C1(CCCCC1)CN | C13H18FN
